US08211908B2
To a solution of 0.14 g of tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(6-methoxy-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)carbamate in 3.0 mL of ethanol, 3 mL of a 6.0 mol/L hydrogen chloride/ethanol solution was added at room temperature. The mixture was stirred at the same temperature for 3 hours, and the solvent was distilled off under reduced pressure. Diethyl ether was added to the resultant residue, and the solid was filtered off to obtain 0.11 g of 4-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-6-methoxypyrido(2,3-b)pyrazin-3(4H)-one hydrochloride as a light brown solid.

reactant | tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(6-methoxy-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)carbamate | 0.14 g | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C1=C(N=CC2=O)C=CC(=N1)OC | C28H36N6O6
reactant | hydrogen chloride ethanol | 6.0 mol/L | Cl.C(C)O
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 4-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-6-methoxypyrido(2,3-b)pyrazin-3(4H)-one hydrochloride | 0.11 g | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C1=C(N=CC2=O)C=CC(=N1)OC | InChI=1S/C23H28N6O4.ClH/c1-31-21-3-2-18-23(27-21)29(22(30)15-26-18)9-8-28-6-4-16(5-7-28)24-13-17-12-19-20(14-25-17)33-11-10-32-19;/h2-3,12,14-16,24H,4-11,13H2,1H3;1H
